US07875189B2
Styrene/4-vinylpyridine
Corresponding method-wise to example 1, 4-VP was used as cationic comonomer. Additions of vinylpyridine in 20 ml purest water via the injection pump: (11) 0.195 g or (12) 0.389 g or (13) 0.585 g or (14) 0.78 g or (15) 0.975 g—latices no. 11—no. 15 in Tab. 1.

reactant | 4-VP | C=CC1=CC=C(C=C1)O | C8H8O
reactant | vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
solvent | water | 20 ml | O | H2O
product | Styrene 4-vinylpyridine | C=CC1=CC=CC=C1.C(=C)C1=CC=NC=C1 | InChI=1S/C8H8.C7H7N/c1-2-8-6-4-3-5-7-8;1-2-7-3-5-8-6-4-7/h2-7H,1H2;2-6H,1H2
